US06291455B1
A solution of 7-benzyloxy-4-(4-bromo-2-fluoroanilino)-6-methoxyquinazoline hydrochloride (9.4 g, 19.1 mmol) in TFA (90 ml) was heated at reflux for 50 minutes. The mixture was allowed to cool aid was poured on to ice. The resulting precipitate was collected by filtration and dissolved in methanol (70 ml). The solution was adjusted to pH9-10 with concentrated aqueous ammonia solution. The mixture was concentrated to half initial volume by evaporation. The resulting precipitate was collected by filtration, washed with water and then ether, and dried under vacuum to give 4-(4-bromo-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (5.66 g, 82%).

reactant | 7-benzyloxy-4-(4-bromo-2-fluoroanilino)-6-methoxyquinazoline hydrochloride | 19.1 mmol, 9.4 g | Cl.C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=C1)Br)F)OC
solvent | TFA | 90 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(4-bromo-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 5.66 g, 82% | BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11BrFN3O2
